US06262040B1
1-Cyclopentyl-3-ethyl-1H-indazole-6-carboxylic acid (2-hydroxycarbamoyl-ethyl)-amide
This compound was prepared according to the method of Example 38, using 203 mg (0.467 mmol, 1.0 equiv) 1-cyclopentyl-3-ethyl-1H-indazole-6-carboxylic acid (2-benzyloxycarbamoyl-ethyl)-amide as starting material and 50 mg of Pd(OH)2/C (Pearlman's catalyst) as catalyst, to give 147 mg (91%) of a white powder: mp 166-169° C.; Anal. calcd for C18H24N4O3: C, 62.77;H, 7.02; N, 16.27. Found: C, 62.58; H, 7.12; N, 16.27.

reactant | 1-cyclopentyl-3-ethyl-1H-indazole-6-carboxylic acid (2-benzyloxycarbamoyl-ethyl)-amide | 0.467 mmol, 203 mg, 1.0 equiv | C(C1=CC=CC=C1)ONC(=O)CCNC(=O)C1=CC=C2C(=NN(C2=C1)C1CCCC1)CC | C25H30N4O3
catalyst | Pd(OH)2/C | 50 mg | [OH-].[OH-].[Pd+2]
product | 1-Cyclopentyl-3-ethyl-1H-indazole-6-carboxylic acid (2-hydroxycarbamoyl-ethyl)-amide | 147 mg, 91% | ONC(=O)CCNC(=O)C1=CC=C2C(=NN(C2=C1)C1CCCC1)CC | C18H24N4O3
